US07981903B2
To a solution of 2-({2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide (3.2 g, 4.57 mmol) in 1,4-dioxane (200 ml) was added 1.0M potassium hydroxide (91 ml, 91 mmol) and the resulting reaction was stirred at 80 C for 6 hrs. The reaction was diluted with ethyl acetate (200 ml), washed with brine (200 ml), adsorded to silica gel and purified by LC (DCM to 5% MeOH/DCM) to provide 2-[(2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide (1.8 g, 72%). ESIMS (M+H)+=547. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.79-1.88 (m, 2 H) 2.07 (br. s., 6 H) 2.59-2.68 (m, 2 H) 2.74 (d, J=4.58 Hz, 3 H) 3.20 ) (s, 2 H) 3.66 (t, J=6.13 Hz, 2 H) 3.80 (s, 3 H) 6.25-6.28 (m, 1 H) 6.78 (s, 1 H) 6.88-6.98 (m, 2 H) 7.32-7.39 (m, 1 H) 7.45 (s, 1 H) 8.20 (d, J=8.42 Hz, 1 H) 8.38 (s, 1H) 8.46-8.59 (m, 1 H) 10.06 (s, 1 H) 11.32 (br. s., 1 H).

reactant | 2-({2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide | 4.57 mmol, 3.2 g | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NC)C(=CC=C2)F)OC)C | C35H37FN8O5S
reactant | potassium hydroxide | 91 mmol, 1.0M, 91 ml | [OH-].[K+]
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-[(2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide | 1.8 g, 72% | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC)C(=CC=C2)F)OC)C | C28H31FN8O3
